US05760050
3-(4-Chloro-benzyl)-8-methyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one
Prepared by the procedure of Example 3 from 8-methyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one* and 4-chlorobenzaldehyde. Yield 65%; mp 147°-149° C.

reactant | 8-methyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | CC=1C=CC2=C(C1)OC(C=1CNCCC12)=O | C13H13NO2
reactant | 4-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | 3-(4-Chloro-benzyl)-8-methyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | Yield 65% | ClC1=CC=C(CN2CC3=C(CC2)C=2C=CC(=CC2OC3=O)C)C=C1 | C20H18ClNO2
